US07790747B2
To a solution of methoxyamine HCl (0.25 g, 3.04 mmol) in CH3CN (5 ml) was added CDI (0.49 g, 3.04 mmol) and DIPEA (0.53 mL, 3.04 mmol). The mixture was stirred at 60° C. for 2 h, then a solution of {(R)-3-[4-(3-chloro-benzylamino)-piperidin-1-yl]-butyl}-carbamic acid tert-butyl ester (305 mg, 0.76 mmol) in CH3CN (5 ml) was added to the previous mixture. After stirring at 60° C. overnight, the mixture was concentrated in vacuo and diluted with CH2Cl2 (15 ml) and saturated NaHCO3 (20 ml). The aqueous layer was extracted with CH2Cl2 (3×10 ml), then the combined organic extracts were dried over Na2SO4 and concentrated. The crude product contained 2:1 product/starting material in the 1H NMR and was purified by flash chromatography (CH2Cl2, 7% MeOH, 1% NH4OH) to afford ((R)-3-{4-[1-(3-chloro-benzyl)-3-methoxy-ureido]-piperidin-1-yl}-butyl)-carbamic acid tert-butyl ester as a yellow oil (215 mg, 60%). 1H NMR (CDCl3) δ 0.92-0.95 (d, 3H, J=9 Hz), 1.37 (s, 9H), 1.47-1.82 (m, 6H), 2.13-2.25 (m, 1H), 2.48-2.57 (m, 1H), 2.63-2.89 (m, 3H), 2.99-3.09 (m, 1H), 3.23-3.38 (m, 1H), 3.65 (s, 3H), 4.14-4.26 (m, 1H), 4.31 (s, 2H), 5.90 (br s, 1H), 6.97 (s, 1H), 7.06-7.17 (m, 1H), 7.22 (s, 1H), 7.29 (s, 1H), 7.69 (s, 1H).

reactant | methoxyamine HCl | 3.04 mmol, 0.25 g | Cl.CON
reactant | CDI | 3.04 mmol, 0.49 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | DIPEA | 3.04 mmol, 0.53 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | {(R)-3-[4-(3-chloro-benzylamino)-piperidin-1-yl]-butyl}-carbamic acid tert-butyl ester | 0.76 mmol, 305 mg | C(C)(C)(C)OC(NCC[C@@H](C)N1CCC(CC1)NCC1=CC(=CC=C1)Cl)=O | C21H34ClN3O2
solvent | CH3CN | 5 ml | CC#N | C2H3N
solvent | CH3CN | 5 ml | CC#N | C2H3N
product | ((R)-3-{4-[1-(3-chloro-benzyl)-3-methoxy-ureido]-piperidin-1-yl}-butyl)-carbamic acid tert-butyl ester | 215 mg, 60% | C(C)(C)(C)OC(NCC[C@@H](C)N1CCC(CC1)N(C(=O)NOC)CC1=CC(=CC=C1)Cl)=O | C23H37ClN4O4
